US04636508
3,4-Dihydro-6-hydroxy-2-methoxy-4-oxo-N-phenyl-5-pyrimidinecarboxamide
To a solution of 4,6-dihydroxy-2-methoxypyrimidine (6 g) in dry dimethyl sulfoxide was added triethylamine (5.9 ml). The solution was brought to 60° and phenyl isocyanate (5 g) was added; the solution was maintained at 80°-90° for two hours, cooled and water added slowly to cause precipitation.

reactant | 4,6-dihydroxy-2-methoxypyrimidine | 6 g | OC1=NC(=NC(=C1)O)OC | C5H6N2O3
reactant | triethylamine | 5.9 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 5 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3,4-Dihydro-6-hydroxy-2-methoxy-4-oxo-N-phenyl-5-pyrimidinecarboxamide | OC1=C(C(NC(=N1)OC)=O)C(=O)NC1=CC=CC=C1 | C12H11N3O4
